US05114463
Preparation of methoxymethyl 2-(4-difluoromethoxy-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate (compound No. 3)
0.9 g of (1.9 mmol) of 2-(4-difluoromethoxy-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoic acid, 0.1 g of 60% sodium hydride and 0.2 g of chloromethylmethylether were reacted in N,N-dimethylformamide, treated and purified in the same manner as in Example 1 to obtain 0.8 g of a colorless transparent viscous liquid having a refractive index of nD20 =1.5389.

reactant | 2-(4-difluoromethoxy-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoic acid | 1.9 mmol, 0.9 g | FC(OC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC)F | C19H16F2N4O8
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | chloromethylmethylether | 0.2 g | ClCOC | C2H5ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methoxymethyl 2-(4-difluoromethoxy-6-methoxypyrimidin-2-yl)oxy-6-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate | 0.8 g | FC(OC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCOC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC)F | C21H20F2N4O9
